US04263311
2-Amino-4,5-dihydrothiazole (10.2 g.) in 50 ml. of methanol was added to a stirred solution of 33.5 g. of α-bromodesoxy-p-anisoin in 200 ml. of acetonitrile in a nitrogen atmosphere. After 2-3 days at room temperature, the solution was evaporated in vacuo. The residue was partitioned between 200 ml. of methylene chloride and 10% aqueous sodium carbonate solution. The organic solution was washed twice with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and evaporated in vacuo. The residue was recrystallized twice from acetonitrile to give 5,6-bis(p-anisyl)-2,3-dihydroimidazo[2,1-b]thiazole, m.p. 154.5°-156.5° C.

reactant | 2-Amino-4,5-dihydrothiazole | 10.2 g | NC=1SCCN1 | C3H6N2S
reactant | methanol | CO | CH4O
reactant | α-bromodesoxy-p-anisoin | BrC(C(C1=CC=C(OC)C=C1)=O)C1=CC=C(OC)C=C1 | C16H15BrO3
reactant | acetonitrile | C(C)#N | C2H3N
product | 5,6-bis(p-anisyl)-2,3-dihydroimidazo[2,1-b]thiazole | C(C1=CC=C(C=C1)OC)C1=C(N=C2SCCN21)CC2=CC=C(C=C2)OC | C21H22N2O2S
